US05968975
A mixture of 2-hydroxy-1-(4-chloro-phenyl)-ethanone (4.7914 g, 28 mmol), prepared in the previous step, isopropyl isocyanate (4.1 ml, 42 mmol) and triethylamine (2.83 ml, 28 mmol) in 100 ml of benzene was refluxed under nitrogen for approximately 24 hours. The solid formed was collected by filtration and dried under high vacuum to give 3.5184 g (49%) of isopropyl-carbamic acid 2-(4-chloro-phenyl)-2-oxo-ethyl ester as an off-white solid. Recrystallization of a portion of this solid from isopropyl alcohol gave an analytically pure sample, mp 163-164° C.

reactant | 2-hydroxy-1-(4-chloro-phenyl)-ethanone | 28 mmol, 4.7914 g | OCC(=O)C1=CC=C(C=C1)Cl | C8H7ClO2
reactant | isopropyl isocyanate | 42 mmol, 4.1 ml | C(C)(C)N=C=O | C4H7NO
reactant | triethylamine | 28 mmol, 2.83 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | isopropyl-carbamic acid 2-(4-chloro-phenyl)-2-oxo-ethyl ester | 3.5184 g, 49% | ClC1=CC=C(C=C1)C(COC(NC(C)C)=O)=O | C12H14ClNO3
